US04218455
4-[(4-Fluorophenyl)thio]-1,2,3,6-tetrahydropyridine Hydrochloride
According to the procedure for synthesis of 4-(phenylthio)-1,2,3,6-tetrahydropyridine, 58.5 g of 4-[(4-fluorophenyl)thio]pyridine is reduced with aluminum hydride. The crude oil is treated with ethereal hydrogen chloride to give 58.2 g (83.1%) of white powder, m.p. 136°-142° C. Recrystallization from acetonitrile gives white crystals, m.p. 158°-159° C.

reactant | 4-(phenylthio)-1,2,3,6-tetrahydropyridine | C1(=CC=CC=C1)SC=1CCNCC1 | C11H13NS
reactant | 4-[(4-fluorophenyl)thio]pyridine | 58.5 g | FC1=CC=C(C=C1)SC1=CC=NC=C1 | C11H8FNS
reactant | aluminum hydride | [H-].[Al+3].[H-].[H-]
reactant | hydrogen chloride | Cl | ClH
product | 4-[(4-Fluorophenyl)thio]-1,2,3,6-tetrahydropyridine Hydrochloride | 58.2 g, 83.1% | Cl.FC1=CC=C(C=C1)SC=1CCNCC1 | InChI=1S/C11H12FNS.ClH/c12-9-1-3-10(4-2-9)14-11-5-7-13-8-6-11;/h1-5,13H,6-8H2;1H
